US09024018B2
3-(Methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide
Phosphorus pentasulfide (25 mg, 0.11 mmol) was added in one portion to a suspension of 3-(methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide and hexamethyldisiloxane (85 mg; 0.112 mL, 0.525 mmol) in DCM (5 mL) and the mixture was refluxed overnight. The crude product was absorbed on silica and purified by flash chromatography using DCM:MeOH (95:5) as eluent to give 39 mg of the title compound as an orange solid (36% yield). δH (DMSO d6): 9.95 (1H, s), 9.47 (1H, s), 8.85 (1H, s), 5.43 (2H, s), 2.26 (3H, s).

reactant | Phosphorus pentasulfide | 0.11 mmol, 25 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 3-(methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | CSCN1N=NC=2N(C1=O)C=NC2C(=O)N | C7H8N6O2S
reactant | hexamethyldisiloxane | 0.525 mmol, 0.112 mL, 85 mg | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(Methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 39 mg, 36% yield | CSCN1N=NC=2N(C1=O)C=NC2C(N)=S | C7H8N6OS2
